US04940710
1-Ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-furanyl)-1-piperazinyl]-3-quinolinecarboxylic acid
A mixture of 592 mg of 3-(3-furanyl)piperazine, 329 mg of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid and 8 ml of pyridine was heated in a pressure bottle at 95°-100° C. for 18 hours and then purified as described in Example 65, giving 160 mg of the desired product, mp 202°-204° C.

reactant | 3-(3-furanyl)piperazine | 592 mg | O1C=C(C=C1)C1CNCCN1 | C8H12N2O
reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 329 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(3-furanyl)-1-piperazinyl]-3-quinolinecarboxylic acid | 160 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1=COC=C1)F)=O)C(=O)O | C20H20FN3O4
